US07365085B2
b) 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2-thiophen-3-yl-propyl)-amino]-propoxy}-phenyl)-ethanol hydrochloride salt
To a solution of (3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2-thiophen-3-yl-propyl)-amino]-propoxy}-phenyl)-acetic acid methyl ester (50 mg, 0.1 mmol) in THF (20 ml) was added LiAlH4 (0.2 ml, 11.0M in diethyl ether). After the reaction mixture was heated to reflux for 4 h it was cooled down to room temperature followed by the addition of NaOH (1 ml, 2N) to quench the reaction. The reaction mixture was filtered and the filtrate was concentrated. The crude product was purified by HPLC (YMC CombiPrep ODS-A, 50×20 mm, 20 mL/min, A: acetonitrile B: water, A: 60 to 100% during 10 min, UV detection at 254 nm) to give the free amine of the title compound as an oil (25 mg, 40%). MS m/e 512.2 (M+H)+. To a solution of the free amine in diethyl ether was added HCl in diethyl ether (1.0M) to precipitate the HCl salt The suspension was filtered and dried to give the title compound as a white solid.

reactant | (3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2-thiophen-3-yl-propyl)-amino]-propoxy}-phenyl)-acetic acid methyl ester | 0.1 mmol, 50 mg | COC(CC1=CC(=CC=C1)OCCCN(CC(C)C1=CSC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C27H29ClF3NO3S
reactant | LiAlH4 | 11.0M, 0.2 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 2N, 1 ml | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2-thiophen-3-yl-propyl)-amino]-propoxy}-phenyl)-ethanol hydrochloride salt | 25 mg, 40% | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)CCO)CC(C)C2=CSC=C2)C=CC=C1C(F)(F)F | InChI=1S/C26H29ClF3NO2S.ClH/c1-19(22-10-14-34-18-22)16-31(17-21-6-3-8-24(25(21)27)26(28,29)30)11-4-13-33-23-7-2-5-20(15-23)9-12-32;/h2-3,5-8,10,14-15,18-19,32H,4,9,11-13,16-17H2,1H3;1H
